US07217697B2
3-(β-D-Glucopyranosyloxy)-5-isopropyl-4-[2-(2-methylbenzyloxy)benzyl]-1H-pyrazole
To a solution of 5-isopropyl-4-[2-(2-methylbenzyloxy)-benzyl]-1,2-dihydropyrazol-3-one (68 mg), acetobromo-α-D-glucose (92 mg) and benzyl tri(n-butyl)ammonium chloride (63 mg) in dichloromethane (2 mL) was added a solution of potassium carbonate (140 mg) in water (0.5 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give a residue containing 5-isopropyl-4-[2-(2-methylbenzyloxy)benzyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole. To a solution of the residue in tetrahydrofuran (1 mL) and methanol (0.5 mL) was added sodium methoxide (28% methanol solution, 0.187 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was neutralized with 2 mol/L hydrochloric acid and concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (51 mg).

reactant | 5-isopropyl-4-[2-(2-methylbenzyloxy)-benzyl]-1,2-dihydropyrazol-3-one | 68 mg | C(C)(C)C1=C(C(NN1)=O)CC1=C(C=CC=C1)OCC1=C(C=CC=C1)C | C21H24N2O2
reactant | acetobromo-α-D-glucose | 92 mg | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | potassium carbonate | 140 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-isopropyl-4-[2-(2-methylbenzyloxy)benzyl]-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | C(C)(C)C1=C(C(=NN1)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)CC1=C(C=CC=C1)OCC1=C(C=CC=C1)C | C35H42N2O11
reactant | sodium methoxide | 0.187 mL | C[O-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
catalyst | benzyl tri(n-butyl)ammonium chloride | 63 mg | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | 0.5 mL | O | H2O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 3-(β-D-Glucopyranosyloxy)-5-isopropyl-4-[2-(2-methylbenzyloxy)benzyl]-1H-pyrazole | 51 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=CC=C1)OCC1=C(C=CC=C1)C)C(C)C | C27H34N2O7
